Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Hypoglycemia
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
This is a ___ year old male with a history of diabetes and HTN 
who was found to have hyperkalemia, elevated lipase at ___ today 
and sent to ED for eval.  Patient reports being in his room 
today when the nurse came in telling him that the doctor was 
concerned some labs.  Patient reports that his appetite is the 
same.  He reports that his insulin was increased 1 month ago 
(from 1 in am and 1 in pm to 2 in am and 1 in pm as well as 
increasing insulin from 10 to 16 and increased the 18 in pm to 
34).  Patient's insulin controlled by doc at nursing home.  He 
was a little lightheaded in the ED, no symptoms prior.  Patient 
reports that he gained weighed 150 lbs 9 months ago and now 
weighs 197 lbs.  He also reports some diarrhea which is chronic. 
 Questionable increase in urinary frequency.  Per the ___ he 
missed breakfast this am. 
.
In the ED, initial vs were: 96.4 67 ___. He was noted 
to have blood sugar of 34.  Initially sugar responded PO intake, 
then NPO ___ lipase, then BG kept decreasing.  1 amp D50, sugar 
initially responded, then dropped again so placed on D10 at 250 
per hour.  ECG without changes related to hyperK, he was given 
kayxelate in the ED.  
.
On the floor, Patient without symptoms.  
.
Review of systems: 
(+) Per HPI
(-) Denies fever, chills, headache, sinus tenderness, rhinorrhea 
or congestion. Denies cough, shortness of breath, or wheezing. 
Denies chest pain, chest pressure, palpitations, or weakness. 
Denies nausea, vomiting, constipation, abdominal pain, or 
changes in bowel habits. Denies dysuria, frequency, or urgency. 
Denies arthralgias or myalgias. Denies rashes or skin changes. 
 
Past Medical History:
Diabetes melitus  
hypertension  
ex lap in ___ in ___, reportedly nothing found, ? 
pancreatic abscess  
decreased hearing, reportedly was told he needs a hearing aid 
but did not get one  
Prostate cancer s/p radiation
Depression
old CVA
HLD
 
Social History:
___
Family History:
Cancer - unable to be specific  
 
Physical Exam:
Vitals: T: 97, BP: 176/93, P: 78, R: 18 O2: 98% on 3L NC 
General: Alert, oriented, no acute distress 
HEENT: Sclera anicteric, MMM, oropharynx clear
Neck: supple, JVP not elevated, no LAD
Lungs: Mild rhales at bases b/l. 
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Abdomen:  soft, non-tender, mildly distended, bowel sounds 
present, no rebound tenderness or guarding, no organomegaly
GU: no foley
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
 
Pertinent Results:
Labs on Admission: 
___ 11:25AM BLOOD WBC-8.2 RBC-4.68 Hgb-13.7* Hct-43.5 
MCV-93 MCH-29.3 MCHC-31.5 RDW-14.5 Plt ___
___ 11:25AM BLOOD Neuts-59.3 ___ Monos-6.8 Eos-1.9 
Baso-0.4
___ 11:25AM BLOOD Glucose-47* UreaN-24* Creat-1.7* Na-143 
K-5.7* Cl-111* HCO3-24 AnGap-14
___ 11:25AM BLOOD ALT-29 AST-17 CK(CPK)-105 AlkPhos-66 
TotBili-0.2
___ 11:25AM BLOOD Lipase-151*
___ 11:25AM BLOOD CK-MB-3 cTropnT-<0.01
___ 05:47PM BLOOD CK-MB-3 cTropnT-<0.01
___ 03:18AM BLOOD CK-MB-3 cTropnT-<0.01

Labs on Discharge: 

___ 07:50AM BLOOD WBC-7.1 RBC-4.79 Hgb-13.7* Hct-44.1 
MCV-92 MCH-28.7 MCHC-31.2 RDW-14.5 Plt ___
___ 07:50AM BLOOD Glucose-223* UreaN-23* Creat-1.6* Na-137 
K-5.2* Cl-103 HCO3-25 AnGap-14
___ 07:50AM BLOOD Calcium-9.4 Phos-4.3 Mg-1.7

Studies: 
CXR: Although lordotic AP positioning exaggerates the apparent 
diameter of the cardiac silhouette, it has probably increased 
since ___, though no more than top normal size. Lungs 
are clear and there is no pleural effusion or evidence of 
central adenopathy. 

 
Brief Hospital Course:
___ yo M with history of DM, CKI not on HD, HTN, HLD who was 
found on routine labs to have elevated K, elevated lipase and at 
___ ED had low blood sugars.  

Hypoglycemia: Likely related to getting insulin in am and 
missing breakfast.  The patient is was on a complicated regimen 
at home which included Insulin Glargine 10 units qAM as well as 
Insulin Novalin 70/30 28 units in am and 12 units in pm. 
Additionally, the patient was on Glyburide.  The patient was 
mildly symptomatic in the ED when hypoglycemic.  He was 
initially transferred to the ICU on a D10 gtt at 250.  D10 was 
stopped on presentation to ICU as blood sugar > 200.  BS trended 
down to about 150 after half an hour.  Blood sugars were closely 
monitored and the patient was started on ISS with plan to 
reassess insulin need prior to ___.  The patient was discharged 
on a simplified Insulin regimen of 10 units Lantus in AM.  
Glyburide was discontinued.  Arrangements have been made for him 
to receive Insulin administration teaching and supervision by a 
nurse at ___ where he resides.

Elevated Cr: Creatinine has been stable at what appears to be 
the patient's new baseline (1.6 - 2). Increasing Cr likely 
related to worsening renal damage secondary to DM.  We did not 
start the patient on ___ at this time given elevated 
potassium. 

Elevated lipase:  Unclear etiology.  Patient clinically without 
evidence of pancreatitis and is tolerating PO diet very well in 
ED.  No tenderness to palpation.  Lipase has been higher in past 
(300), at that time an abdominal U/S was unrevealing for a 
pathology. ___ be related to fluctuations in renal function

Hyperkalemia: Likely related to worsening renal function.  No 
ECG changes.  Given kayexelate in the ED with resolution.  The 
patient was started on low potassium diet. 

Hypertension: On admission, pt. with hypertension. We started 
Hydrochlorothiazide 12.5 mg daily. We chhanged Nifedipine from 
10mg three times a day to Nifedipine CR 60mg once a day. This 
resulted in resolution of hypertension.

Hyperlipidemia: We continued outpatient statin.

Depression:  We continued citalopram.

Old CVA: We continued ASA 81mg.

 
Medications on Admission:
Acetaminophen 325 mg q6 prn       
Asp81 mg daily       
Citalopram irin 40 mg daily       
Cyanocobalamin 100 mcg Tablet daily       
Docusate Sodium 100 mg BID       
Doxazosin 2 mg Tablet qHS       
Ergocalciferol 800 unit Tablet daily      
Folic Acid 1 mg Tablet daily       
Gabapentin 300 mg BID       
Glyburide 5 mg daily       
Insulin Glargine 10 U qAM 
Insulin Novalin 70/30 28 U in am and 12 U in pm    
Nifedipine 10 mg q8   
Sennosides 8.6 mg BID       
Simvastatin 20 mg daily 
 
Discharge Medications:
1. Acetaminophen 325 mg Tablet Sig: One (1) Tablet PO Q6H (every 
6 hours) as needed for pain/fever.  
2. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
3. Citalopram 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
4. Cyanocobalamin 100 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
6. Doxazosin 1 mg Tablet Sig: Two (2) Tablet PO HS (at bedtime). 
 
7. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: Two (2) 
Tablet PO DAILY (Daily).  
8. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO once a day.  
9. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO Q12H (every 
12 hours).  
10. Simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
11. Sennosides 8.6 mg Capsule Sig: One (1) Capsule PO twice a 
day.  
12. Hydrochlorothiazide 12.5 mg Capsule Sig: One (1) Capsule PO 
DAILY (Daily).
Disp:*30 Capsule(s)* Refills:*0*
13. Insulin Glargine 100 unit/mL Solution Sig: Ten (10) units 
Subcutaneous qAM.
Disp:*1 bottle* Refills:*2*
14. Nifedipine 60 mg Tablet Sustained Release Sig: One (1) 
Tablet Sustained Release PO DAILY (Daily).
Disp:*30 Tablet Sustained Release(s)* Refills:*1*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary: Hypoglycemia, hyperkalemia, elevated lipase, Diabetes 
mellitus type 2

Secondary: Hypertension, hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent
Level of Consciousness: Alert and interactive
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane)

 
Discharge Instructions:
You were admitted to the hospital because you were found to have 
abnormal labs (elevated potassium and lipase).  While in the 
Emergency Room, you were found to have a very low blood sugar 
and were admitted to the Intensive Care Unit.  This likely 
occurred because you took a dose of Insulin that was too high.  
You were given sugar by IV and your blood sugars returned to 
normal.  You were also treated for high potassium and your 
potassium levels normalized.  You are now being discharged home.
.
We made changes to your dose of Insulin.  You should now take 
Insulin called Lantus 10 units every morning.  Please do not 
take any other diabetic medications until you see your nurse at 
the ___ residence on ___ morning.  She will go 
over the instcutions of how to take your insulin. 
.
We also stopped you Glyburide. Please do not take that 
medications.
.
We started you on Hydrochlorothiazide 12.5 mg daily. 
.
We changed your Nifedipine.  Instead of regular Nifedipine 10mg 
three times a day, you should take long-acting Nifedipine CR 
60mg once a day.
.
You should adhere to the the diabetic, heart-healthy diet that 
is low in potassium.
.
You need to have your blood sugars checked daily to make sure 
they are under control.
.
You need to follow up with your primary care doctor Dr. ___ 
___ number ___.  Please call right away to set up 
an appointment within 1 week of discharge.
.
If you develop any symptoms of low blood sugar (dizziness, 
lightheadedness, blurry vision, sweating profusely, or any other 
concerning symptoms), please call ___ and come to the Emergency 
Department.
 
Followup Instructions:
___